US06407096B1
4-(3-(tert-butyldimethylsilyloxy)propyl)-3-oxo-8-(tetrahydropyran-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine
3-oxo-8-(tetrahydropyran-2-yl)-3,4-dihydro-2H-1,4-benzoxazine (2.0 g) was dissolved in DMF (25 ml), and potassium t-butoxide (1.1 g) was added to the resultant solution, and the mixture was stirred at 0° C. for 15 minutes and then at room temperature for 15 minutes. The reaction solution was cooled to 0° C., and 3-(tert-butyldimethylsilyloxy)-1-bromopropane (2.1 ml) was then added to the reaction solution, and the mixture was stirred for 3 hours at room temperature. The reaction solution was diluted with ethyl acetate, washed with a saturated ammonium chloride aqueous solution and saturated brine, and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure, and the resultant residue was purified by column chromatography (silica gel:ethyl acetate/n-hexane=3:17) to obtain the object compound (2.55 g, yield 75%).

reactant | 3-oxo-8-(tetrahydropyran-2-yl)-3,4-dihydro-2H-1,4-benzoxazine | 2.0 g | O=C1COC2=C(N1)C=CC=C2C2OCCCC2 | C13H15NO3
reactant | potassium t-butoxide | 1.1 g | CC(C)([O-])C.[K+]
reactant | 3-(tert-butyldimethylsilyloxy)-1-bromopropane | 2.1 ml | [Si](C)(C)(C(C)(C)C)OCCCBr | C9H21BrOSi
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-(tert-butyldimethylsilyloxy)propyl)-3-oxo-8-(tetrahydropyran-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine | 2.55 g, yield 75% | [Si](C)(C)(C(C)(C)C)OCCCN1C(COC2=C1C=CC=C2OC2OCCCC2)=O | C22H35NO5Si
